* C:\Users\Ian Diaz\Desktop\TP1\Integracion LTSpice\Integracion.asc
C1 N001 0 3n
R1 LA_IN 0 10K
XU1 SH_IN +Vcc SCSH_IN VCC+ N001 LA_IN VCC- LF398H
V3 VCC+ 0 10
V4 0 VCC- 10
XU2 0 N002 Vcc+ VCC- N008 TL084
XU3 0 N018 Vcc+ VCC- Vout_CA TL084
XU4 0 N019 Vcc+ VCC- N003 TL084
C2 N008 N002 1n
R2 Vout_CA N018 56k
R3 N019 Vout_CA 27k
C3 N003 N019 1n
R4 N003 N002 12k
R5 N019 FAA_IN 100k
R6 N018 N008 56k
R7 N006 Vout_CD 22k
R8 N010 N006 22k
R9 0 N013 27k
R10 N013 N016 39k
XU5 N010 N013 VCC+ VCC- SH_IN TL084
C4 N010 0 1n
C5 SH_IN N006 1n
R11 N022 Vout_CA 180k
R12 N024 N022 180k
R13 0 N026 12000
R14 N026 N028 10k
XU6 N024 N026 VCC+ VCC- Vout_CC TL084
C6 N024 0 1n
C7 Vout_CC N022 1n
R15 N030 Vout_CE 12k
R16 N032 N030 12k
R17 0 N034 56k
R18 N034 N036 8.2k
XU7 N032 N034 VCC+ VCC- Vout_CD TL084
C8 N032 0 1n
C9 Vout_CD N030 1n
XU8 0 N038 VCC+ VCC- Vout_CE TL084
R19 N038 Vout_CC 18k
R20 Vout_CE N038 12k
R21 N012 N002 27k
Rvar1 N008 N012 1.8k
R22 N006 Vout_CD 8.2k
R23 N010 N006 8.2k
R24 SH_IN N016 330
R25 N022 Vout_CA 8.2k
R26 N024 N022 8.2k
R27 Vout_CC N028 820
R28 N030 Vout_CE 120k
R29 N032 N030 120k
R30 Vout_CD N036 100
R31 N003 N002 1k
XU9 0 saw out +Vcc N046 saw N045 +Vcc NE555
C10 N046 0 100n
Q1 saw N044 P001 0 2N2907
R32 N044 0 2.2k tol=1 pwr=0.1
R33 N043 P001 20k tol=1 pwr=0.1
C11 saw 0 1n
V1 +Vcc 0 5
R34 ref +Vcc 10k
R35 P002 ref 1.5k
RD1 saw N045 50
XU10 saw ref +Vcc 0 SCSH_IN LTC6752
D1 +Vcc N044 1N750
R36 P002 0 7k
R37 +Vcc N043 500
R38 N040 +Vcc 10k
R39 N042 N040 1.5k
XU11 N041 N040 +Vcc 0 SCLA LTC6752
R40 N042 0 7k
XU12 N041 saw N041 opamp Aol=100K GBW=10Meg
S1 LA_IN FR_IN SCLA 0 MYSW
XU13 0 N004 Vcc+ VCC- N009 TL084
XU14 0 N020 Vcc+ VCC- Vout_CA_2 TL084
XU15 0 N021 Vcc+ VCC- N005 TL084
C12 N009 N004 1n
R41 Vout_CA_2 N020 56k
R42 N021 Vout_CA_2 27k
C13 N005 N021 1n
R43 N005 N004 12k
R44 N021 FR_IN 100k
R45 N020 N009 56k
R46 N007 Vout_CD_2 22k
R47 N011 N007 22k
R48 0 N015 27k
R49 N015 N017 39k
XU16 N011 N015 VCC+ VCC- OUTPUT TL084
C14 N011 0 1n
C15 OUTPUT N007 1n
R50 N023 Vout_CA_2 180k
R51 N025 N023 180k
R52 0 N027 12000
R53 N027 N029 10k
XU17 N025 N027 VCC+ VCC- Vout_CC_2 TL084
C16 N025 0 1n
C17 Vout_CC_2 N023 1n
R54 N031 Vout_CE_2 12k
R55 N033 N031 12k
R56 0 N035 56k
R57 N035 N037 8.2k
XU18 N033 N035 VCC+ VCC- Vout_CD_2 TL084
C18 N033 0 1n
C19 Vout_CD_2 N031 1n
XU19 0 N039 VCC+ VCC- Vout_CE_2 TL084
R58 N039 Vout_CC_2 18k
R59 Vout_CE_2 N039 12k
R60 N014 N004 27k
Rvar2 N009 N014 1.8k
R61 N007 Vout_CD_2 8.2k
R62 N011 N007 8.2k
R63 OUTPUT N017 330
R64 N023 Vout_CA_2 8.2k
R65 N025 N023 8.2k
R66 Vout_CC_2 N029 820
R67 N031 Vout_CE_2 120k
R68 N033 N031 120k
R69 Vout_CD_2 N037 100
R70 N005 N004 1k
V2 FAA_IN 0 SINE(0 1 1k)
.model D D
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 4e-3 0 1E-6
.include LF398.sub
* Sample & Hold
.inc TL084.mod
* Celda A\n(Q = 6,04 y fo=30.632[KHz])
* Celda B\n(Q = 1,84 y fo=26.623[KHz])
* Celda C\n(Q = 0,91 y fo=20.728[KHz])
* Celda D\n(Q = 0,54 y fo=14.639[KHz])
* Celda E
* Filtro Anti Alias
.lib opamp.sub
* OSCILADOR Y SEÑAL DE CONTROL
.model MYSW SW(Ron=125 Roff=1Meg Vt=.5 Vh=-.4)
* LLAVE ANALOGICA
* Celda A\n(Q = 6,04 y fo=30.632[KHz])
* Celda B\n(Q = 1,84 y fo=26.623[KHz])
* Celda C\n(Q = 0,91 y fo=20.728[KHz])
* Celda D\n(Q = 0,54 y fo=14.639[KHz])
* Celda E
* Filtro Recuperador
* INTERCONEXIONES
.lib LTC7.lib
.lib NE555.sub
.backanno
.end
